US04594098
Ammonium 2-(dimethylphosphinoyl)-2-hydroxyacetate
10 g of 25% strength aqueous ammonia solution are added dropwise to a solution of 15.2 g (0.1 mol) of 2-(dimethylphosphinoyl)-2-hydroxy-acetic acid in 10 ml of water. The temperature thereby rises to 38°. The mixture is stirred at 25° C. for one hour and concentrated on a rotary evaporator. The residue is first dehydrated azeotropically with toluene and then boiled up with acetonitrile. 14.3 g (84.6%) of the salt of melting point 183°-186° remain.

reactant | ammonia | N | H3N
reactant | 2-(dimethylphosphinoyl)-2-hydroxy-acetic acid | 0.1 mol, 15.2 g | CP(=O)(C(C(=O)O)O)C | C4H9O4P
solvent | water | 10 ml | O | H2O
product | Ammonium 2-(dimethylphosphinoyl)-2-hydroxyacetate | CP(=O)(C(C(=O)[O-])O)C.[NH4+] | InChI=1S/C4H9O4P.H3N/c1-9(2,8)4(7)3(5)6;/h4,7H,1-2H3,(H,5,6);1H3
